US06310056B1
To an ice-cooled solution of 3.39 g of 3-hydroxymethylimidazo[5,1-b]thiazole in 22 ml of DMF were added 1.95 g of imidazole and 3.81 g of t-butyldimethylsilyl chloride. After the reaction mixture was reacted at room temperature for 6 hours, it was diluted with 150 ml of ethyl acetate, and washed three times with saline. The organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure to give 5.83 g of 3-(t-butyldi methylsilyloxy)methylimidazo[5,1-b]thiazole.

reactant | 3-hydroxymethylimidazo[5,1-b]thiazole | 3.39 g | OCC=1N2C(SC1)=CN=C2 | C6H6N2OS
reactant | imidazole | 1.95 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 3.81 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-(t-butyldi methylsilyloxy)methylimidazo[5,1-b]thiazole | 5.83 g | [Si](C)(C)(C(C)(C)C)OCC=1N2C(SC1)=CN=C2 | C12H20N2OSSi
